US07732435B2
7-Amino-3-(4-chlorophenyl)-2-isopropyl-8-nitro-chromen-4-one
3-(4-Chlorophenyl)-2-isopropyl-7-(4-methoxybenzylamino)-8-nitro-chromen-4-one (80 mg, 0.167 mmol) is dissolved in trifluoroacetic acid (2 ml), and the solution is stirred at room temperature for 2 h. The mixture is then poured onto crushed ice and warmed to room temperature, and the yellow precipitate formed is collected by filtration. The solid is washed with water and then dissolved in ethyl acetate (10 ml). The solution is washed sequentially with 50% aqueous sodium bicarbonate solution (10 ml) and saturated brine (10 ml), dried (MgSO4), filtered and evaporated to give a pale yellow solid. This is triturated with n-pentane/diethyl ether and filtered to give a pale yellow powder.

reactant | 3-(4-Chlorophenyl)-2-isopropyl-7-(4-methoxybenzylamino)-8-nitro-chromen-4-one | 0.167 mmol, 80 mg | ClC1=CC=C(C=C1)C1=C(OC2=C(C(=CC=C2C1=O)NCC1=CC=C(C=C1)OC)[N+](=O)[O-])C(C)C | C26H23ClN2O5
solvent | trifluoroacetic acid | 2 ml | FC(C(=O)O)(F)F | C2HF3O2
product | 7-Amino-3-(4-chlorophenyl)-2-isopropyl-8-nitro-chromen-4-one | NC1=CC=C2C(C(=C(OC2=C1[N+](=O)[O-])C(C)C)C1=CC=C(C=C1)Cl)=O | C18H15ClN2O4
